US07314849B2
To solution of N-pivaloyl-4-chloro-3-methoxyaniline (5.0 g, 21 mmol) in tetrahydrofuran (60 mL) at −60° C. was added n-butyl lithium (2.5M, 44 mmol). The solution was allowed to warm to 0° C. and stir for 3 hours. Ethylene dibromide (9.9 g, 53 mmol) was added and the solution stirred for 18 hours before being quenched with with ammonium chloride (saturated solution, 20 mL) and extracted with ethyl ether (2×50 mL). The combined extracts were washed with brine, dried (sodium sulfate) and concentrated. The residure was purified by chromatography (10% ethyl acetate/hexanes) to give N-pivaloyl-2-bromo-4-chloro-3-methoxyaniline (3.7 g, 1.2 mmol): LC/MS (m/z=320).

reactant | N-pivaloyl-4-chloro-3-methoxyaniline | 21 mmol, 5.0 g | C(C(C)(C)C)(=O)NC1=CC(=C(C=C1)Cl)OC | C12H16ClNO2
reactant | n-butyl lithium | 44 mmol, 2.5M | C(CCC)[Li]
reactant | Ethylene dibromide | 53 mmol, 9.9 g | C(CBr)Br | C2H4Br2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | N-pivaloyl-2-bromo-4-chloro-3-methoxyaniline | 1.2 mmol, 3.7 g | C(C(C)(C)C)(=O)NC1=C(C(=C(C=C1)Cl)OC)Br | C12H15BrClNO2
